### PR TITLE
[Merged by Bors] - feat: port AlgebraicGeometry.GammaSpecAdjunction

### PR DESCRIPTION
**Pull request by nick-kuhn**
---

- [x] depends on: #5328

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by nick-kuhn** [comment]
There is an instance missing in `toΓSpec`, which I don't understand where it came from in mathlib3.

**Comment by jjaassoonn** [comment]
You can try in Lean3
```lean
example : some_instance := by show_term { apply_instance }
```

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 1]
```diff
@@ -0,0 +1,530 @@
...
+theorem comp_ring_hom_ext {X : LocallyRingedSpace} {R : CommRingCat} {f : R ⟶ Γ.obj (op X)}
+    {β : X ⟶ Spec.locallyRingedSpaceObj R}
+    (w : X.toΓSpec.1.base ≫ (Spec.locallyRingedSpaceMap f).1.base = β.1.base)
+    (h :
+      ∀ r : R,
+        f ≫ X.presheaf.map (homOfLE le_top : (Opens.map β.1.base).obj (basicOpen r) ⟶ _).op =
+          toOpen R (basicOpen r) ≫ β.1.c.app (op (basicOpen r))) :
+    X.toΓSpec ≫ Spec.locallyRingedSpaceMap f = β := by
+  -- Porting note : `ext` did not pick `LocallyRingedSpace.Hom.ext` up
+  refine Hom.ext _ _ ?_
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:292]: It probably just needs an additional `@[ext]` lemma expressed in terms of the `\hom` for `LocallyRingedSpace`.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 2]
```diff
@@ -0,0 +1,530 @@
...
+    erw [← IsLocalization.AtPrime.to_map_mem_maximal_iff ((structureSheaf R).presheaf.stalk p)
+        p.asIdeal x]
+    rfl
+  · intro r; apply toOpen_res
+set_option linter.uppercaseLean3 false in
+#align algebraic_geometry.Γ_Spec.right_triangle AlgebraicGeometry.ΓSpec.right_triangle
+
+-- Porting Note: Had to set Heartbeats
+set_option maxHeartbeats 900000 in
+-- Removing this makes the following definition time out.
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:369]: Removing what? Maybe this comment was misplaced by mathport?

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 3]
```diff
@@ -0,0 +1,530 @@
...
+-- Porting Note: Had to increase Heartbeats
+set_option maxHeartbeats 250000 in
+instance isIso_locallyRingedSpaceAdjunction_counit : IsIso locallyRingedSpaceAdjunction.counit :=
+  IsIso.of_iso_inv (NatIso.op SpecΓIdentity) -- Porting Note: Had to make this explicit
+set_option linter.uppercaseLean3 false in
+#align algebraic_geometry.Γ_Spec.is_iso_LocallyRingedSpace_adjunction_counit AlgebraicGeometry.ΓSpec.isIso_locallyRingedSpaceAdjunction_counit
+
+instance isIso_adjunction_counit : IsIso ΓSpec.adjunction.counit := by
+  -- Porting Note: Next line was
+  -- `apply (config := { instances := false }) nat_iso.is_iso_of_is_iso_app`
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:447]: This is allowed now, but renamed to `allowSynthFailures := false`. It may not work until we bump the Lean4 version tomorrow, however.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 4]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem toΓSpecSheafedSpace_app_spec (r : Γ.obj (op X)) :
+    toOpen (Γ.obj (op X)) (basicOpen r) ≫ X.toΓSpecSheafedSpace.c.app (op (basicOpen r)) =
+      X.toToΓSpecMapBasicOpen r :=
+  (X.toΓSpecSheafedSpace_app_eq r).symm ▸ X.toΓSpecCApp_spec r
+set_option linter.uppercaseLean3 false in
+#align algebraic_geometry.LocallyRingedSpace.to_Γ_Spec_SheafedSpace_app_spec AlgebraicGeometry.LocallyRingedSpace.toΓSpecSheafedSpace_app_spec
+
+-- Porting note : added this helper lemma to help compile `toStalk_stalkMap_to_Γ_Spec`
+theorem toΓSpecSheafedSpace_app_spec_comp {Z} (r : Γ.obj (op X)) (f : _ ⟶ Z) :
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:229]: This should be called `_assoc`, not `_comp`, and can probably be autogenerated by putting `@[reassoc]` on the previous theorem.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 5]
```diff
@@ -0,0 +1,530 @@
...
+    X.toΓSpecSheafedSpace.c.app (op (basicOpen r)) = X.toΓSpecCApp r := by
+  have := TopCat.Sheaf.extend_hom_app (Spec.toSheafedSpace.obj (op (Γ.obj (op X)))).presheaf
+    ((TopCat.Sheaf.pushforward X.toΓSpecBase).obj X.𝒪)
+    isBasis_basic_opens X.toΓSpecCBasicOpens r
+  dsimp at this
+  rw [←this]
+  dsimp
+  congr
+
+set_option linter.uppercaseLean3 false in
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:218]: Please just move these to a global option at the top of the file.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:270]: I'm not sure I understand, `LocallyRingedSpace.Hom.ext` is already an `ext` lemma

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:270]: ah, you mean `⟶`, I am stupid

**Comment by jjaassoonn** [comment]
Now all `set_option maxHeartbeats n` is fixed

**Comment by semorrison** [comment]
I've marked this `blocked-by-core-PR`, but this just means that with the nightly that will be released in ~7 hours we should be able to proceed.

**Comment by semorrison** [comment]
Okay, `allowSynthFailures := false` is available again!

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5328
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#5328~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:432]: amended

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
